US04983600
(b) N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-fluorobenzamide
The above compound was prepared, following the procedure of Example 1, from 3-aminoquinuclidine (0.63 g, 5 mmol) and crude 2-fluorobenzoyl isocyanate (1.3 g, ca 7 mmol). The product (1.35 g) was converted to the 1:1 succinate, mp 187°-188° C.

reactant | 3-aminoquinuclidine | 5 mmol, 0.63 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-fluorobenzoyl isocyanate | ca 7 mmol, 1.3 g | FC1=C(C(=O)N=C=O)C=CC=C1 | C8H4FNO2
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
product | N-[[[1-Azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-2-fluorobenzamide | N12CC(C(CC1)CC2)NC(=O)NC(C2=C(C=CC=C2)F)=O | C15H18FN3O2
